US07754759B2
To a solution of 3-(4-benzenesulfonyl-2-bromo-phenyl)-propionaldehyde (4.77 g, 13.5 mmol) in THF (40 mL) was added trimethylsilylmethylmagnesium chloride (1M in Et2O, 27.3 mL) at −78° C. under Argon atmosphere. The reaction was allowed to reach 0° C. and was stirred for 3 hours, then quenched by addition of buffer pH=2 KHSO4/Na2SO4 (10%) at 0° C. The mixture was extracted 3 times with EtOAc and the combined extracts were washed with brine, dried over Na2SO4, filtered and evaporated in vacuo. The residue was purified via flash chromatography (hexane/EtOAc, 8/2) to afford 4-(4-benzenesulfonyl-2-bromo-phenyl)-1-trimethylsilanyl-butan-2-ol (4.60 g, 77% yield).

reactant | 3-(4-benzenesulfonyl-2-bromo-phenyl)-propionaldehyde | 13.5 mmol, 4.77 g | C1(=CC=CC=C1)S(=O)(=O)C1=CC(=C(C=C1)CCC=O)Br | C15H13BrO3S
reactant | trimethylsilylmethylmagnesium chloride | 1M, 27.3 mL | C[Si](C)(C)C[Mg]Cl
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 4-(4-benzenesulfonyl-2-bromo-phenyl)-1-trimethylsilanyl-butan-2-ol | 4.60 g, 77% yield | C1(=CC=CC=C1)S(=O)(=O)C1=CC(=C(C=C1)CCC(C[Si](C)(C)C)O)Br | C19H25BrO3SSi
